US08026234B2
4-(9-Cyclohexyl-7-fluoro-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid:
A mixture of 2-chloro-9-cyclohexyl-7-fluoro-5,7-dimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (330 mg, 1 mmol), 4-amino-3-methoxybenzoic acid (184 mg, 1.1 mmol), isopropanol (10 ml), and concentrated hydrochloric acid (10 drops) was stirred at 100° C. for 20 h. Solid was filtered to give 146 mg product as white solid (32%). [M+H] calc'd for C23H28FN5O4, 458. found 458.

reactant | 2-chloro-9-cyclohexyl-7-fluoro-5,7-dimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 1 mmol, 330 mg | ClC=1N=CC2=C(N(CC(C(N2C)=O)(C)F)C2CCCCC2)N1 | C15H20ClFN4O
reactant | 4-amino-3-methoxybenzoic acid | 1.1 mmol, 184 mg | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 4-(9-Cyclohexyl-7-fluoro-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | 146 mg, 32% | C1(CCCCC1)N1C2=C(N(C(C(C1)(C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C23H28FN5O4
